US09029401B2
tert-Butyl 4-chloropicolinate
To thionyl chloride (40 mL) was added picolinic acid (10.5 g, 85.4 mmol) followed by sodium bromide (0.93 mg, 9.2 mmol) at room temperature. The reaction mixture was refluxed for 24 h. the reaction mixture was then cooled to room temperature and thionyl chloride was removed in vacuo. The residue was diluted with THF (50 mL) and concentrated to dryness. The compound was used for further reaction without purification. To a solution of t-butanol (19.6 mL), pyridine (20.7 mL) and 1,2-dichloroethane (80 mL) at 0° C., was added a solution of 4-chloropicolinyl chloride above in 1,2-dichloroethane (60 mL). The reaction mixture was heated at 50° C. for 24 h. The reaction mixture was diluted with DCM and then washed with 5% citric acid several times. The organic layer was dried over MgSO4 and concentrated. The residue was purified by column chromatography (30% EtOAc in hexanes) to give a colorless oil (6.6 g, 60.4%). 1H NMR (DMSO-d6): δ 8.68 (d, J=5 Hz, 1H), 8.01 (d, J=2 Hz, 1H), 7.79 (dd, J=5 and 2 Hz, 1H), 1.56 (s, 9H).

reactant | thionyl chloride | 40 mL | S(=O)(Cl)Cl | Cl2OS
reactant | picolinic acid | 85.4 mmol, 10.5 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | sodium bromide | 9.2 mmol, 0.93 mg | [Br-].[Na+]
reactant | 4-chloropicolinyl chloride | ClC1=CC(=NC=C1)CCl | C6H5Cl2N
reactant | t-butanol | 19.6 mL | C(C)(C)(C)O | C4H10O
solvent | 1,2-dichloroethane | 60 mL | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 80 mL | ClCCCl | C2H4Cl2
solvent | pyridine | 20.7 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-chloropicolinate | 6.6 g, 60.4% | ClC1=CC(=NC=C1)C(=O)OC(C)(C)C | C10H12ClNO2
